US05098900
5-(2,4-dimethoxybenzylamino)-2-i-propyl-3(2H)pyridazinone (Compound No. 100)
320 mg of 4-chloro-5-(2,4-dimethoxybenzylamino)-2-i-propyl-3(2H)pyridazinone (Compound No. 97), 50 ml of ethanol, 1 ml of triethylamine and 100 mg of palladium-carbon were stirred, and hydrogen was added to the mixture at a temperature of from 40° to 50° C. for 3 hours. The reaction mixture was filtered, and the filtrate was evaporated. The crude crystals thereby obtained were recrystallized from ethyl ether to obtain 230 mg of the above identified compound having a melting point of from 167 to 168° C.

reactant | 4-chloro-5-(2,4-dimethoxybenzylamino)-2-i-propyl-3(2H)pyridazinone | 320 mg | ClC=1C(N(N=CC1NCC1=C(C=C(C=C1)OC)OC)C(C)C)=O | C16H20ClN3O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 5-(2,4-dimethoxybenzylamino)-2-i-propyl-3(2H)pyridazinone | COC1=C(CNC2=CC(N(N=C2)C(C)C)=O)C=CC(=C1)OC | C16H21N3O3
